US04420424
(C) H-Glu(OBut)-Val-Val-NH2.HCl
6 g of Z-Glu(OBut)-Val-Val-NH2 are suspended in 200 ml of methanol. After adding Pd-on-BaSO4 and 2 N methanolic hydrochloric acid, the mixture is subjected to catalytic hydrogenation at pH 4.5. When the reaction is complete, the catalyst is filtered off and the filtrate is concentrated. The residue crystallizes on being triturated with ether. Yield 4.8 g, melting point 211°-219°, [α]D23 =-18.7° (c=1, in methanol).

reactant | Z-Glu(OBut)-Val-Val-NH2 | 6 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N)C(=O)OCC1=CC=CC=C1 | C27H42N4O7
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | H-Glu(OBut)-Val-Val-NH2.HCl | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N.Cl | InChI=1S/C19H36N4O5.ClH/c1-10(2)14(16(21)25)22-18(27)15(11(3)4)23-17(26)12(20)8-9-13(24)28-19(5,6)7;/h10-12,14-15H,8-9,20H2,1-7H3,(H2,21,25)(H,22,27)(H,23,26);1H/t12-,14-,15-;/m0./s1
